US04374843
A mixture of 1.8 g (5.2 mmol) of 2-bromo-1-(2-guanidino-4-thiazolyl)ethanone hydrobromide, 0.34 g (5.5 mmol) of thioformamide, and 10 ml of dimethylformamide was stirred at room temperature for 2 hours. The mixture was concentrated and the residue was triturated with acetonitrile. The resulting precipitate was collected by filtration, washed with acetonitrile, and dried to afford 1.74 g (85%) of 2-guanidino-4-(4-thiazolyl)thiazole dihydrobromide. This was dissolved in 10 ml of water, and 1 ml of saturated sodium bicarbonate solution was added. The resulting precipitate was collected by filtration, washed well with water, then acetonitrile, then dried in vacuo to afford 1.17 g of 2-guanidino-4-(4-thiazoyl)thiazole as a white solid, mp 220°-222°; nmr (DMSO-d6) (δ): 8.96 (s, 1H); 7.96 (s, 1H); 7.18 (s, 1H); 7.0 (b, 4H); calcd. for C7H7N5S2 : C, 37.32; H, 3.13; N, 31.09; found: 36.94; H, 3.52; N, 29.74.

reactant | 2-bromo-1-(2-guanidino-4-thiazolyl)ethanone hydrobromide | 5.2 mmol, 1.8 g | Br.BrCC(=O)C=1N=C(SC1)NC(=N)N
reactant | thioformamide | 5.5 mmol, 0.34 g | C(=S)N | CH3NS
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-guanidino-4-(4-thiazolyl)thiazole dihydrobromide | 1.74 g, 85% | Br.Br.N(C(=N)N)C=1SC=C(N1)C=1N=CSC1 | InChI=1S/C7H7N5S2.2BrH/c8-6(9)12-7-11-5(2-14-7)4-1-13-3-10-4;;/h1-3H,(H4,8,9,11,12);2*1H
